* Z:\celera\projects\Simplis\playrelease\Release\play301b\Regression\sim_gmRegression301b.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map SIMPV 14
.node_map inn 16
.node_map inp 15
.node_map en 17
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 100u 0
*.include gm_encrypted.lb
.globalvar tdext_khz=200
.globalvar VIN=5
.globalvar REF=0.9


X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
X$U3 11 12 13 10 EXTERNALSgm301b
X$U4 11 14 15 16 17 12 13 10 gmRegression301b
** From Z:\celera\projects\Simplis\playrelease\Release\play301b\Regression\FORCEgm301b.sxcmp


** From Z:\celera\projects\Simplis\playrelease\Release\play301b\Regression\EXTERNALSgm301b.sxcmp


** From Z:\celera\projects\Simplis\playrelease\Release\play301b\Regression\gmRegression301b.sxcmp
.subckt gmRegression301b 50 45 46 48 49 51 52 47
*#hierarchy
.node_map SIMPV 45
.node_map inn 48
.node_map inp 46
.node_map OUTpushpull2mm 47
.node_map OUTsink 52
.node_map OUTpushpull 50
.node_map en 49
.node_map OUTsource 51
X$gm1 45 48 50 30 31 46 49 32 33 34 gm vars: gm_type='p' gm_override='no' gm_output='pushpull' gm_clamp_high='no' gm_clamp_low='no' gm_ok='no' gm_lowiq='no' gm_lowiq_name='text' gm_lowiq_description='text' gm_dft='no' gm_accuracy='no' gm_trim_name='text' gm_trim_description='text' gm_gain=100m gm_lowiq_por=0 gm_vmax=6
X$gm2 45 48 51 35 36 46 49 37 38 39 gm vars: gm_type='p' gm_override='no' gm_output='source' gm_clamp_high='no' gm_clamp_low='no' gm_ok='no' gm_lowiq='no' gm_lowiq_name='text' gm_lowiq_description='text' gm_dft='no' gm_accuracy='no' gm_trim_name='text' gm_trim_description='text' gm_gain=100m gm_lowiq_por=0 gm_vmax=6
X$gm3 45 48 52 40 41 46 49 42 43 44 gm vars: gm_type='p' gm_override='no' gm_output='sink' gm_clamp_high='no' gm_clamp_low='no' gm_ok='no' gm_lowiq='no' gm_lowiq_name='text' gm_lowiq_description='text' gm_dft='no' gm_accuracy='no' gm_trim_name='text' gm_trim_description='text' gm_gain=100m gm_lowiq_por=0 gm_vmax=6
X$gm4 45 48 47 25 26 46 49 27 28 29 gm vars: gm_type='p' gm_override='no' gm_output='pushpull' gm_clamp_high='no' gm_clamp_low='no' gm_ok='no' gm_lowiq='no' gm_lowiq_name='text' gm_lowiq_description='text' gm_dft='no' gm_accuracy='no' gm_trim_name='text' gm_trim_description='text' gm_gain=2 gm_lowiq_por=0 gm_vmax=6
.ends gmRegression301b

.end
