* Z:\celera\projects\Simplis\playrelease\Release\play301a\Regression\sim_subtractorRegression01a.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map BUS1$0 83
.node_map BUS1$1 84
.node_map d2A$0 77
.node_map d2A$1 78
.node_map BUS2$0 85
.node_map BUS2$1 86
.node_map BUS2$2 87
.node_map BUS2$3 88
.node_map BUS2$4 89
.node_map BUS2$5 90
.node_map d2B$0 79
.node_map BUS2$6 91
.node_map d2B$1 80
.node_map BUS2$7 92
.node_map d8A$0 53
.node_map BUS3$10 103
.node_map BUS3$0 93
.node_map d8A$1 54
.node_map BUS3$11 104
.node_map BUS3$1 94
.node_map d8A$2 55
.node_map BUS3$12 105
.node_map BUS3$2 95
.node_map d8A$3 56
.node_map BUS3$13 106
.node_map BUS3$3 96
.node_map d8A$4 57
.node_map BUS3$14 107
.node_map BUS3$4 97
.node_map d8A$5 58
.node_map BUS3$15 108
.node_map BUS3$5 98
.node_map d8A$6 59
.node_map BUS3$6 99
.node_map d8A$7 60
.node_map BUS3$7 100
.node_map d8B$0 61
.node_map d16B$10 31
.node_map BUS3$8 101
.node_map d8B$1 62
.node_map d16B$11 32
.node_map BUS3$9 102
.node_map d8B$2 63
.node_map d16B$12 33
.node_map d8B$3 64
.node_map d16B$13 34
.node_map d8B$4 65
.node_map d16B$14 35
.node_map d8B$5 66
.node_map d16B$15 36
.node_map d2D$0 81
.node_map d8B$6 67
.node_map d2D$1 82
.node_map d8B$7 68
.node_map d8D$0 69
.node_map d16A$0 5
.node_map d8D$1 70
.node_map d16A$1 6
.node_map d8D$2 71
.node_map d16A$2 7
.node_map d8D$3 72
.node_map d16A$3 8
.node_map d8D$4 73
.node_map d16A$4 9
.node_map d8D$5 74
.node_map d16A$10 15
.node_map d16A$5 10
.node_map d8D$6 75
.node_map d16A$11 16
.node_map d16A$6 11
.node_map d8D$7 76
.node_map d16A$12 17
.node_map d16A$7 12
.node_map d16B$0 21
.node_map d16A$13 18
.node_map d16A$8 13
.node_map d16B$1 22
.node_map d16A$14 19
.node_map d16A$9 14
.node_map d16D$10 47
.node_map d16B$2 23
.node_map d16A$15 20
.node_map d16D$11 48
.node_map d16B$3 24
.node_map d16D$12 49
.node_map d16B$4 25
.node_map d16D$13 50
.node_map d16B$5 26
.node_map d16D$14 51
.node_map d16B$6 27
.node_map d16D$15 52
.node_map d16B$7 28
.node_map d16B$8 29
.node_map d16B$9 30
.node_map d16D$0 37
.node_map d16D$1 38
.node_map d16D$2 39
.node_map load 109
.node_map d16D$3 40
.node_map d16D$4 41
.node_map d16D$5 42
.node_map d16D$6 43
.node_map d16D$7 44
.node_map d16D$8 45
.node_map d16D$9 46
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ MIN_AVG_TOPOLOGY_DUR=1p
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=1000
.tran 1u 0
*.include subtractor_encrypted.lb
.globalvar ref=1
.globalvar VIN=3.3


.PRINT V(4)
.GRAPH :4 curveLabel= U1-overdelta nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.GRAPH "ComposeDigital('#BUS2', [0, 7],  '' , '%BUSNAME%$%WIRENUM%', [0.8, 0.9])*1.0+0" complete=true  axistype=digital   bus=hex curveLabel="sub8" disabled=false 
.PRINT ^BUS2$*
.GRAPH "ComposeDigital('#BUS1', [0, 1],  '' , '%BUSNAME%$%WIRENUM%', [0.8, 0.9])*1.0+0" complete=true  axistype=digital   bus=hex curveLabel="sub2" disabled=false 
.PRINT ^BUS1$*
.GRAPH "ComposeDigital('#BUS3', [0, 15],  '' , '%BUSNAME%$%WIRENUM%', [0.8, 0.9])*1.0+0" complete=true  axistype=digital   bus=hex curveLabel="sub16" disabled=false 
.PRINT ^BUS3$*
X$U2 83 84 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 35 36 37 38 39 40 41 42 43 44 45 46 47 48 49 50 51 52 53 54 55 56 57 58 59 60 61 62 63 64 65 66 67 68 69 70 71 72 73 74 75 76 77 78 85 86 87 88 89 90 91 92 79 80 81 82 109 93 94 95 96 97 98 99 100 101 102 103 104 105 106 107 108 4 subtractorRegression
X$U4 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playrelease\Release\play301a\Regression\FORCEsubtractor301a.sxcmp


** From Z:\celera\projects\Simplis\playrelease\Release\play301a\Regression\subtractorRegression.sxcmp
.subckt subtractorRegression 17 18 129 130 131 132 133 134 135 136 137 138 139 140 141 142 143 144 145 146 147 148 149 150 151 152 153 154 155 156 157 158 159 160 161 162 163 164 165 166 167 168 169 170 171 172 173 174 175 176 97 98 99 100 101 102 103 104 113 114 115 116 117 118 119 120 211 212 213 214 215 216 217 218 65 66 33 34 35 36 37 38 39 40 81 82 219 220 209 49 50 51 52 53 54 55 56 57 58 59 60 61 62 63 64 210
*#hierarchy
.node_map BUS1$10 187
.node_map BUS1$11 188
.node_map BUS1$12 189
.node_map BUS1$13 190
.node_map BUS1$14 191
.node_map BUS1$15 192
.node_map BUS1$0 177
.node_map d2A$10 75
.node_map BUS1$1 178
.node_map d2A$11 76
.node_map BUS1$2 179
.node_map d2A$12 77
.node_map BUS2$10 203
.node_map BUS1$3 180
.node_map d2A$13 78
.node_map BUS2$11 204
.node_map BUS1$4 181
.node_map d2A$14 79
.node_map subtract$0 49
.node_map BUS2$12 205
.node_map BUS1$5 182
.node_map d2A$15 80
.node_map d2A$0 65
.node_map subtract$1 50
.node_map BUS2$13 206
.node_map BUS1$6 183
.node_map d2A$1 66
.node_map subtract$2 51
.node_map BUS2$14 207
.node_map BUS1$7 184
.node_map d2A$2 67
.node_map subtract$3 52
.node_map BUS2$15 208
.node_map BUS2$0 193
.node_map BUS1$8 185
.node_map d2A$3 68
.node_map subtract$10 59
.node_map subtract$4 53
.node_map BUS2$1 194
.node_map BUS1$9 186
.node_map d2A$4 69
.node_map subtract$11 60
.node_map subtract$5 54
.node_map BUS2$2 195
.node_map d2A$5 70
.node_map subtract$12 61
.node_map subtract$6 55
.node_map BUS2$3 196
.node_map d2A$6 71
.node_map subtract$13 62
.node_map subtract$7 56
.node_map BUS2$4 197
.node_map d2A$7 72
.node_map subtract$14 63
.node_map subtract$8 57
.node_map BUS2$5 198
.node_map d2B$10 91
.node_map d2B$0 81
.node_map d2A$8 73
.node_map subtract$15 64
.node_map subtract$9 58
.node_map BUS2$6 199
.node_map d2B$11 92
.node_map d2B$1 82
.node_map d2A$9 74
.node_map BUS2$7 200
.node_map d8A$0 97
.node_map d2B$12 93
.node_map d2B$2 83
.node_map BUS2$8 201
.node_map d8A$1 98
.node_map d2B$13 94
.node_map d2B$3 84
.node_map BUS2$9 202
.node_map d8A$2 99
.node_map d2B$14 95
.node_map d2B$4 85
.node_map d8A$3 100
.node_map d2B$15 96
.node_map d2B$5 86
.node_map d8A$4 101
.node_map d2B$6 87
.node_map d8A$5 102
.node_map d2B$7 88
.node_map d8A$6 103
.node_map d2B$8 89
.node_map d8A$7 104
.node_map d2B$9 90
.node_map d16B$10 155
.node_map d8B$0 113
.node_map d8A$8 105
.node_map subtract8$0 33
.node_map d16B$11 156
.node_map d8B$1 114
.node_map d8A$9 106
.node_map subtract8$1 34
.node_map d16B$12 157
.node_map d8B$2 115
.node_map subtract8$2 35
.node_map d16B$13 158
.node_map d8B$3 116
.node_map subtract8$3 36
.node_map d16B$14 159
.node_map d8B$4 117
.node_map subtract8$4 37
.node_map d16B$15 160
.node_map d8B$5 118
.node_map subtract8$5 38
.node_map d2D$0 219
.node_map d8B$6 119
.node_map subtract8$6 39
.node_map d2D$1 220
.node_map d8B$7 120
.node_map subtract8$7 40
.node_map d8B$8 121
.node_map subtract8$8 41
.node_map d8B$9 122
.node_map subtract8$9 42
.node_map d8D$0 211
.node_map d16A$0 129
.node_map d8D$1 212
.node_map d16A$1 130
.node_map d8D$2 213
.node_map d16A$2 131
.node_map d8D$3 214
.node_map d16A$3 132
.node_map d8D$4 215
.node_map d16A$4 133
.node_map d8D$5 216
.node_map overdelta 210
.node_map d16A$10 139
.node_map d16A$5 134
.node_map d8D$6 217
.node_map d16A$11 140
.node_map d16A$6 135
.node_map d8A$10 107
.node_map d8D$7 218
.node_map d16A$12 141
.node_map d16A$7 136
.node_map d8A$11 108
.node_map d16B$0 145
.node_map d16A$13 142
.node_map d16A$8 137
.node_map d8A$12 109
.node_map d16B$1 146
.node_map d16A$14 143
.node_map d16A$9 138
.node_map d8A$13 110
.node_map d16D$10 171
.node_map d16B$2 147
.node_map d16A$15 144
.node_map d8A$14 111
.node_map d16D$11 172
.node_map d16B$3 148
.node_map d8A$15 112
.node_map d16D$12 173
.node_map d16B$4 149
.node_map d16D$13 174
.node_map d16B$5 150
.node_map d16D$14 175
.node_map d16B$6 151
.node_map d16D$15 176
.node_map d16B$7 152
.node_map d16B$8 153
.node_map d16B$9 154
.node_map d8B$10 123
.node_map d8B$11 124
.node_map subtract2$10 27
.node_map d8B$12 125
.node_map subtract2$11 28
.node_map d8B$13 126
.node_map subtract2$12 29
.node_map d8B$14 127
.node_map subtract2$13 30
.node_map d16D$0 161
.node_map d8B$15 128
.node_map subtract2$14 31
.node_map d16D$1 162
.node_map subtract2$15 32
.node_map d16D$2 163
.node_map load 209
.node_map d16D$3 164
.node_map d16D$4 165
.node_map d16D$5 166
.node_map d16D$6 167
.node_map subtract8$10 43
.node_map d16D$7 168
.node_map subtract8$11 44
.node_map d16D$8 169
.node_map subtract8$12 45
.node_map d16D$9 170
.node_map subtract8$13 46
.node_map subtract8$14 47
.node_map subtract8$15 48
.node_map subtract2$0 17
.node_map subtract2$1 18
.node_map subtract2$2 19
.node_map subtract2$3 20
.node_map subtract2$4 21
.node_map subtract2$5 22
.node_map subtract2$6 23
.node_map subtract2$7 24
.node_map subtract2$8 25
.node_map subtract2$9 26
X$subtractor1 65 66 67 68 69 70 71 72 73 74 75 76 77 78 79 80 81 82 83 84 85 86 87 88 89 90 91 92 93 94 95 96 177 178 179 180 181 182 183 184 185 186 187 188 189 190 191 192 209 17 18 19 20 21 22 23 24 25 26 27 28 29 30 31 32 15 subtractor vars: subtractor_difference='no' subtractor_bits=2 subtractor_vmax=6
X$subtractor2 97 98 99 100 101 102 103 104 105 106 107 108 109 110 111 112 113 114 115 116 117 118 119 120 121 122 123 124 125 126 127 128 193 194 195 196 197 198 199 200 201 202 203 204 205 206 207 208 209 33 34 35 36 37 38 39 40 41 42 43 44 45 46 47 48 16 subtractor vars: subtractor_difference='no' subtractor_bits=8 subtractor_vmax=6
X$subtractor3 129 130 131 132 133 134 135 136 137 138 139 140 141 142 143 144 145 146 147 148 149 150 151 152 153 154 155 156 157 158 159 160 161 162 163 164 165 166 167 168 169 170 171 172 173 174 175 176 209 49 50 51 52 53 54 55 56 57 58 59 60 61 62 63 64 210 subtractor vars: subtractor_difference='yes' subtractor_bits=16 subtractor_vmax=6
.ends subtractorRegression

.end
