* Z:\celera\projects\Simplis\playrelease\Release\play301\Verification\sim_vbuffer301.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map SIMPV 19
.node_map OUT1 20
.node_map OUT2 22
.node_map OUT3 24
.node_map OUT4 25
.node_map IN 23
.node_map en 21
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 200u 0

.globalvar tdext_khz=200
.globalvar VIN=5
.globalvar REF=0.9


.PRINT V(#OUT4)
.GRAPH :#OUT4 axisType="auto" persistence=-1 curveLabel="OUT4" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe1  
.PRINT V(#OUT1)
.GRAPH :#OUT1 curveLabel= OUT1 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
.PRINT V(#OUT2)
.GRAPH :#OUT2 curveLabel= OUT2 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
.PRINT V(#IN)
.GRAPH :#IN curveLabel= IN nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe4  
.PRINT V(#OUT3)
.GRAPH :#OUT3 axisType="auto" persistence=-1 curveLabel="OUT3" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe5  
.PRINT V(#SIMPV)
.GRAPH :#SIMPV curveLabel= SIMPV nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe7  
X$U3 0 celera vars: simulation_module='name' status='dev' simulation='typical'
X$U4 19 20 21 23 0 22 24 25 vbuffer301
** From Z:\celera\projects\Simplis\playrelease\Release\play301\Design\FORCEvbuffer301.sxcmp


** From Z:\celera\projects\Simplis\playrelease\Release\play301\Design\vbuffer301.sxcmp
.subckt vbuffer301 29 32 31 30 33 34 35 36
*#hierarchy
.node_map SIMPV 29
.node_map OUT1 32
.node_map OUT2 34
.node_map OUT3 35
.node_map OUT4 36
.node_map RTN 33
.node_map IN 30
.node_map en 31
.PRINT I(X$vbuffer3#IN)
.GRAPH vbuffer3#IN curveLabel="I(vbuffer3-IN)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT I(X$vbuffer4#IN)
.GRAPH vbuffer4#IN curveLabel="I(vbuffer4-IN)" nowarn=true complete=true analysis=tran|pop disabled=false 
X$U1 24 celeranoconn vars: ='%'
X$U2 26 celeranoconn vars: ='%'
X$U3 27 celeranoconn vars: ='%'
X$U4 28 celeranoconn vars: ='%'
X$vbuffer1 29 24 30 32 31 23 vbuffer vars: vbuffer_accuracy='no' vbuffer_datasheet_name='im' vbuffer_datasheet_description='text' vbuffer_type='p' vbuffer_inputbuffer='no' vbuffer_drive='internal' vbuffer_gndsense='no' vbuffer_dft='no' vbuffer_gain=1 vbuffer_feedbackimpedance=1000 vbuffer_vmax=6
X$vbuffer2 29 26 30 34 31 25 vbuffer vars: vbuffer_accuracy='no' vbuffer_datasheet_name='ddd' vbuffer_datasheet_description='text' vbuffer_type='p' vbuffer_inputbuffer='no' vbuffer_drive='internal' vbuffer_gndsense='no' vbuffer_dft='no' vbuffer_gain=1.5 vbuffer_feedbackimpedance=1000 vbuffer_vmax=6
X$vbuffer3 29 27 30 35 31 33 vbuffer vars: vbuffer_accuracy='no' vbuffer_datasheet_name='aaa' vbuffer_datasheet_description='text' vbuffer_type='p' vbuffer_inputbuffer='no' vbuffer_drive='internal' vbuffer_gndsense='yes' vbuffer_dft='no' vbuffer_gain=500m vbuffer_feedbackimpedance=2000 vbuffer_vmax=6
X$vbuffer4 29 28 30 36 31 33 vbuffer vars: vbuffer_accuracy='no' vbuffer_datasheet_name='lll' vbuffer_datasheet_description='text' vbuffer_type='p' vbuffer_inputbuffer='yes' vbuffer_drive='internal' vbuffer_gndsense='yes' vbuffer_dft='no' vbuffer_gain=500m vbuffer_feedbackimpedance=2000 vbuffer_vmax=6
.ends vbuffer301

.end
